US03933828
A solution of 3-phenyl-4,9-dihydronaphtho[2,3-d]-isoxazole-4,9-dione (1.0 g) in 6.6 % dimethylamine-dioxane solution (100 ml) is irradiated by light of a high-pressure mercury lamp (1 KW) through a pyrex filter at room temperature (20°-30°C) in argon atmosphere for 3.3 hours. After removal of the solvent, the residue is dissolved in methylene chloride. The solution is washed with water, dried with anhydrous sodium sulfate, and evaporated. The residue is washed with benzene to give 2-(N-methylbenzimidoyl)-3-hydroxy-1,4-naphthoquinone (252 mg). Recrystallization from methanol gives yellow prisms, m.p. 235°-237°C.

reactant | 3-phenyl-4,9-dihydronaphtho[2,3-d]-isoxazole-4,9-dione | 1.0 g | C1(=CC=CC=C1)C1=NOC2=C1C(C=1C=CC=CC1C2=O)=O | C17H9NO3
reactant | dimethylamine dioxane | 100 ml | CNC.O1CCOCC1
product | 2-(N-methylbenzimidoyl)-3-hydroxy-1,4-naphthoquinone | 252 mg | CN=C(C1=CC=CC=C1)C=1C(C2=CC=CC=C2C(C1O)=O)=O | C18H13NO3
